US07728030B2
N-[(1R,2S)-1-[1-(4-Fluorophenyl)-6-methyl-indazol-5-yl]oxy-1-(3-methoxyphenyl)propan-2-yl]-2,2-dimethyl-propanamide
Prepared as described in Example 1 using (1R,2S)-1-[1-(4-fluorophenyl)-6-methyl-indazol-5-yl]oxy-1-(3-methoxyphenyl)-propan-2-amine (73 mg, 0.18 mmol) and pivaloyl chloride (0.088 ml, 0.72 mmol). Yield 75 mg (85%).

reactant | (1R,2S)-1-[1-(4-fluorophenyl)-6-methyl-indazol-5-yl]oxy-1-(3-methoxyphenyl)-propan-2-amine | 0.18 mmol, 73 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=C(C=C12)C)O[C@@H]([C@H](C)N)C1=CC(=CC=C1)OC | C24H24FN3O2
reactant | pivaloyl chloride | 0.72 mmol, 0.088 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
product | N-[(1R,2S)-1-[1-(4-Fluorophenyl)-6-methyl-indazol-5-yl]oxy-1-(3-methoxyphenyl)propan-2-yl]-2,2-dimethyl-propanamide | FC1=CC=C(C=C1)N1N=CC2=CC(=C(C=C12)C)O[C@@H]([C@H](C)NC(C(C)(C)C)=O)C1=CC(=CC=C1)OC | C29H32FN3O3
